US08461328B2
A suspension of trans 3-[4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl]-propionitrile (3.83 g, 8.50 mmol) in ethanol (28.5 mL, IMS grade) was treated with water (9.5 mL) followed by ammonium chloride (2.71 g, 50.7 mmol) and iron powder (1.89 g, 33.8 mmol) and the mixture was heated to 80° C. for 45 minutes. The solid was filtered and washed with ethanol (IMS grade). The filter cake was extracted repeatedly with DCM. The DCM extracts were washed with water and the aqueous layer was back-extracted with DCM (×2). The combined DCM extracts were washed with brine, dried with sodium sulfate and concentrated under vacuum to give 2.08 g of crude product. The filtered cake, from above, was extracted repeatedly with 2M NH3 in MeOH. The washings were concentrated under vacuum and worked up to provide a further 190 mg of crude product. The remaining filter cake was stirred with DCM (35 mL) and the DCM decanted off, and then 20% [2N NH3 in MeOH] in DCM. The combined chlorinated extracts were filtered through Celite® to remove traces of iron residue and concentrated under vacuum to give a third batch of crude product (0.66 g). The three batches of crude product were dissolved in DCM, combined and concentrated under vacuum to give 2.97 g (83%) of trans 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl]-propionitrile as a pale brown solid that was used in the next step without further purification. 1H NMR (400 MHz, DMSO) δ: 8.01 (d, 2H), 7.66 (t, 1H), 7.57 (t, 2H), 7.54 (s, 1H), 7.46 (d, 1H), 6.66 (d, 1H), 5.10 (d, 1H), 4.33 (s, 2H), 3.68-3.56 (m, 1H), 2.01-1.91 (m, 2H), 1.81-1.72 (m, 2H), 1.50 (q, 2H), 1.38-1.19 (m, 3H), 1.17-1.04 (m, 2H) plus 2H obscured by solvent peak.

reactant | trans 3-[4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl]-propionitrile | 8.50 mmol, 3.83 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CC[C@H](CC2)CCC#N)[N+](=O)[O-] | C22H23N5O4S
reactant | water | 9.5 mL | O | H2O
reactant | ammonium chloride | 50.7 mmol, 2.71 g | [Cl-].[NH4+]
solvent | ethanol | 28.5 mL | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | iron | 33.8 mmol, 1.89 g | [Fe] | Fe
product | trans 3-[4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexyl]-propionitrile | 2.97 g, 83% | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)N[C@@H]2CC[C@H](CC2)CCC#N | C22H25N5O2S
